US07807671B2
Preparation of ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate
To a sealed tube containing 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (Compound B-1) (1.24 g, 2.48 mmol) in 1,4-dioxane (20 mL) was added ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate (1.12 g, 2.61 mmol) and Pd(PPh3)4(0.87 g, 0.75 mmol). The mixture was flushed with N2, and was sealed and heated to 100° C. After 14 h of heating, the mixture was cooled to rt, was diluted with MeOH, and was filtered through a pad of celite to remove any solids. The solution was concentrated under reduced pressure, and was re-dissolved in DMF. The DMF solution was loaded on the prep HPLC for purification. After purification, the title product was isolated as an off-white solid (0.901 g). LCMS: m/e 559.6 (M+H)+, ret time 2.283 min (method 2). 1H NMR (500 MHz, DMSO-D6) δ ppm 14.52 (s, 1 H) 12.35 (s, 1 H) 8.26-8.41 (m, 2 H) 7.36-7.76 (m, 6 H) 4.29-4.47 (m, J=6.71 Hz, 2 H) 3.09-3.80 (m, 8 H) 1.36 (s, 3 H).

reactant | 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 2.48 mmol, 1.24 g | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H16BrFN8O2
reactant | ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate | 2.61 mmol, 1.12 g | C(CCC)[Sn](C1=NNC(=C1)C(=O)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.75 mmol, 0.87 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate | FC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)OCC)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C26H23FN10O4
